* Z:\mnt\design.r\spice\examples\1149-5.asc
V1 IN 0 48
M§Q1 N006 N012 0 0 FDS5690
M§Q2 N006 N002 IN IN IRF7343P
C1 N004 0 470p
C2 N009 0 3300p
C3 N003 0 3.3µ
C4 N001 N003 .068µ
D1 N001 IN 1N4148
D2 N002 IN 1N4148
L1 N006 N007 62µ
C5 N007 OUT 1000p
C6 N002 N005 .047µ
D3 0 N006 MBRS360
C7 OUT 0 220µ Rser=.01
R1 N010 N009 1K
R2 N007 OUT 50m
XU1 N002 IN N003 N005 MP_01 N011 N010 OUT N007 N004 0 0 N012 0 N008 N001 LTC1149-5
C8 N011 0 100p
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 9m startup
.lib LTC1149-5.sub
.backanno
.end
